US09332754B2
Production of 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenol (present compound No. C-0001)
To 300 ml of toluene were added 32.0 g (119 mmol) of 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl boronic acid produced by the method described in PCT International Publication No. WO 2007/034755 and 15.4 g (131 mmol) of N-methylmorpholine-N-oxide, followed by refluxing for 1 hour under heating. The reaction mixture was allowed to cool to room temperature. The solvent was distilled off under reduced pressure. The residue was subjected to extraction with ethyl acetate. The organic phase obtained was washed with water and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane:ethyl acetate=4:1), to obtain 25.5 g (yield: 89%) of an intended product.

reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl boronic acid | 119 mmol, 32.0 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)B(O)O | C9H9BF4O2S
reactant | N-methylmorpholine-N-oxide | 131 mmol, 15.4 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenol | 25.5 g, yield: 89% | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)O | C9H8F4OS
